US09399623B2
6-Chloro-2-cyclopentyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (43)
To a solution of 6-chloro-2-cyclopent-1-enyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexyl methyl)-amide (110.00 mg, 0.25 mmol, 1.00 eq) in methanol (15 mL, 136.36 V) was added palladium on carbon (10% w/w) (20 mg, 0.02 mmol, 0.08 eq) under argon atmosphere. Triethylsilane (0.40 mL, 2.49 mmol, 10 eq) was added to the reaction mixture and stirred for 30 min. The reaction mixture was filtered through a Celite bed and the filtrate was concentrated to provide a crude product which was purified by preparative HPLC to afford the title compound (18 mg, 0.04 mmol, 17.5%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.80 (t, J=5.80 Hz, 1H), 7.94-8.01 (m, 2H), 7.75 (d, J=9.01 Hz, 1H), 7.58 (d, J=8.72 Hz, 1H), 3.39-3.40 (m, 1H), 3.27 (t, J=6.21 Hz, 2H), 2.02-2.11 (m, 4H), 1.64-1.86 (m, 11H), 1.27-1.33 (m, 2H). m/z: 407 [M+H]+

reactant | 6-chloro-2-cyclopent-1-enyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexyl methyl)-amide | 0.25 mmol, 110.00 mg, 1.00 eq | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CCCC1)F | C22H23ClF2N2O
reactant | Triethylsilane | 2.49 mmol, 0.40 mL, 10 eq | C(C)[SiH](CC)CC | C6H16Si
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 0.02 mmol, 20 mg, 0.08 eq | [Pd] | Pd
product | 6-Chloro-2-cyclopentyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | 0.04 mmol, 18 mg, 17.5% | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CCCC1)F | C22H25ClF2N2O
